US07081463B2
1-Bromomethyl-8-methyl-naphthalene
1,8-Dimethyl-naphthalene (1.30 g, 8.32 mmol) was dissolved in dry carbon tetrachloride (80 mL). To the reaction mixture was added N-bromosuccinimide (1.39 g, 7.82 mmol), dibenzoyl peroxide (6 mg, catalyst) and the reaction mixture was refluxing for 6 hours under nitrogen atmosphere. The reaction mixture was cooled to room temperature, a precipitate formed on cooling and the precipitate was separated by filtration. The filtrate was evaporated in vacuo to yield the title compound as a solid which was used in further steps without additional purification.

reactant | 1,8-Dimethyl-naphthalene | 8.32 mmol, 1.30 g | CC1=CC=CC2=CC=CC(=C12)C | C12H12
reactant | N-bromosuccinimide | 7.82 mmol, 1.39 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | dibenzoyl peroxide | 6 mg | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
solvent | carbon tetrachloride | 80 mL | C(Cl)(Cl)(Cl)Cl | CCl4
product | 1-Bromomethyl-8-methyl-naphthalene | BrCC1=CC=CC2=CC=CC(=C12)C | C12H11Br
